US08217045B2
Step 17.2: Cyclopropanecarboxylic acid (4-nitro-pyridin-2-yl)-amide
2-Chloro-4-nitro-pyridine (476 mg, 3 mmol), cyclopropanecarboxylic acid amide (306 mg, 3.6 mmol), and tripotassium phosphate (892 mg, 4.2 mmol) are mixed in dimethoxyethane under an argon atmosphere. (2′-Dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine (118 mg, 0.3 mmol) and Pd2(dba)3 (275 mg, 0.3 mmol) are added and the mixture is stirred for 3 h at 90° C. Further 0.5 equivalent cyclopropanecarboxylic acid amide (128 mg, 1.5 mmol) is added and the mixture is stirred for 1 additional hour. After cooling at RT the reaction mixture is taken in ethyl acetate, washed with a solution of saturated sodium hydrogen carbonate and brine. The combined organic phases are dried (Na2SO4), concentrated under reduced pressure and the residue is purified by column chromatography (ethyl acetate/hexane) to afford the title compound as a brown solid. M-H−=206.1, HPLC tR: 4.62 min.

reactant | 2-Chloro-4-nitro-pyridine | 3 mmol, 476 mg | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | cyclopropanecarboxylic acid amide | 3.6 mmol, 306 mg | C1(CC1)C(=O)N | C4H7NO
reactant | tripotassium phosphate | 4.2 mmol, 892 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (2′-Dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 0.3 mmol, 118 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | cyclopropanecarboxylic acid amide | 1.5 mmol, 128 mg, 0.5 equivalent | C1(CC1)C(=O)N | C4H7NO
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.3 mmol, 275 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Cyclopropanecarboxylic acid (4-nitro-pyridin-2-yl)-amide | [N+](=O)([O-])C1=CC(=NC=C1)NC(=O)C1CC1 | C9H9N3O3
